US04180504
To a solution of 17β-hydroxyestr-4-en-3-one (5.48 g) and 3-(4-hexyloxyphenyl)propionic acid (5.75 g) in dry pyridine (60 ml) pTSA (0.200 g) and DCC (5.77 g) are added. After 72 h stirring at room temperature acetic acid (2 ml) is added, and the reaction mixture is kept overnight at +4° C. The same work-up procedure as in Example 1 gives 17β-[3-(4-hexyloxyphenyl)-propanoyloxy]estr-4-en-3-one (m. p. 52°-3° C.) in a 87% yield after recrystallization from methanol/water.

reactant | 17β-hydroxyestr-4-en-3-one | 5.48 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O | C18H26O2
reactant | 3-(4-hexyloxyphenyl)propionic acid | 5.75 g | C(CCCCC)OC1=CC=C(C=C1)CCC(=O)O | C15H22O3
reactant | DCC | 5.77 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 60 ml, 0.200 g | N1=CC=CC=C1 | C5H5N
product | 17β-[3-(4-hexyloxyphenyl)-propanoyloxy]estr-4-en-3-one | 87% yield | C(CCCCC)OC1=CC=C(C=C1)CCC(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O | C33H46O4
